US07314936B2
To a solution of 7,7,9,9-tetramethyl-1,4-dioxa-spiro[4.5]decan-8-one (4.15 g, 0.019 mol, 1.0 eq.) in THF (60 mL) was added 1 N HCl (30 mL) and the resulting mixture was stirred at room temperature overnight, concentrated to remove most of the THF, extracted with 3×EtOAc. The organic layers were combined, dried over MgSO4, filtered and concentrated to give 2,2,6,6-tetramethyl-cyclohexane-1,4-dione as a white solid (3.43 g, >100%).

reactant | 7,7,9,9-tetramethyl-1,4-dioxa-spiro[4.5]decan-8-one | 0.019 mol, 4.15 g, 1.0 eq. | CC1(CC2(OCCO2)CC(C1=O)(C)C)C | C12H20O3
reactant | HCl | 1 N, 30 mL | Cl | ClH
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 2,2,6,6-tetramethyl-cyclohexane-1,4-dione | 3.43 g, >100% | CC1(C(C(CC(C1)=O)(C)C)=O)C | C10H16O2
